US04140515
Preparation of Methyl 2-[5-(2-Pyridyl)-3-Isoxazolyl]-Benzoate.
A mixture of 11.0 g (.039 mol) of methyl 2-[5-(2-pyridyl)-2-isoxazolin-3-yl]benzoate and 9.76 g (.043 mol) of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone in 200 ml of chlorobenzene was held at reflux for 3 hours; the mixture was allowed to cool, was filtered, and was concentrated under vacuum to 12.0 g of residue. The residue was chromatographed on 400 g of silica gel with 20% ether in benzene to give 3.8 g (35%) of solid, mp 54-57° C. Recrystallization of a small sample gave solid with mp 58-60.5° C.

reactant | methyl 2-[5-(2-pyridyl)-2-isoxazolin-3-yl]benzoate | .039 mol, 11.0 g | N1=C(C=CC=C1)C1CC(=NO1)C1=C(C(=O)OC)C=CC=C1 | C16H14N2O3
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | .043 mol, 9.76 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | chlorobenzene | 200 ml | ClC1=CC=CC=C1 | C6H5Cl
product | Methyl 2-[5-(2-Pyridyl)-3-Isoxazolyl]-Benzoate | 3.8 g, 35% | N1=C(C=CC=C1)C1=CC(=NO1)C1=C(C(=O)OC)C=CC=C1 | C16H12N2O3
